US07396844B1
Synthesis of 4-[N-[2-(3-cyanophenoxy)ethyl]carbamoyl]benzoic acid
310 mg (1 mmol) of methyl 4-[N-[2-(3-cyanophenoxy)ethyl]carbamoyl]benzoate was stirred in 15 ml of ethanol and 15 ml of THF. 3 ml of 1 N aqueous sodium hydroxide solution was added thereto and they were stirred at room temperature overnight. The reaction liquid was distilled under reduced pressure and then 1 N hydrochloric acid was added to the residue. After the extraction with ethyl acetate, the extract was washed with a saturated aqueous NaCl solution and then dried over anhydrous magnesium sulfate. The solvent was evaporated to obtain the title compound.

reactant | methyl 4-[N-[2-(3-cyanophenoxy)ethyl]carbamoyl]benzoate | 1 mmol, 310 mg | C(#N)C=1C=C(OCCNC(=O)C2=CC=C(C(=O)OC)C=C2)C=CC1 | C18H16N2O4
reactant | sodium hydroxide | 1 N, 3 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-[N-[2-(3-cyanophenoxy)ethyl]carbamoyl]benzoic acid | C(#N)C=1C=C(OCCNC(=O)C2=CC=C(C(=O)O)C=C2)C=CC1 | C17H14N2O4
